US07799810B2
A solution of DMAP (9.77 g), TEA (55.23 ml) and N,N′-diisopropylcarbodiimide (49.01 ml) in DCM is treated with 5-methyl-isoxazole-3-ylamine (28.8 g) and Boc-β-Ala-OH (50 g) and stirred at room temperature for 18 h. The resulting mixture is diluted with DCM (1750 ml) and washed with 10% citric acid (2×500 ml), saturated sodium hydrogen carbonate solution (2×500 ml), and brine (600 ml). The organic portion is dired (MgSO4), concentrated in vacuo and the crude residue is stirred with iso-hexane (750 ml) for 1 hr. The resulting solid is dissolved in dioxane (400 ml) and treated with 4M HCl in dioxane (350 ml). After 1 hr the precipitate is filtered off and washed with dioxane (100 ml) to afford the 3-amino-N-(5-methyl-isoxazol-3-yl)-propionamide hydrochloride. (MH+ 169.84)

reactant | N,N′-diisopropylcarbodiimide | 49.01 ml | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 5-methyl-isoxazole-3-ylamine | 28.8 g | CC1=CC(=NO1)N | C4H6N2O
reactant | Boc-β-Ala-OH | 50 g | N(CCC(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | DCM | 1750 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 9.77 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-amino-N-(5-methyl-isoxazol-3-yl)-propionamide hydrochloride | Cl.NCCC(=O)NC1=NOC(=C1)C | InChI=1S/C7H11N3O2.ClH/c1-5-4-6(10-12-5)9-7(11)2-3-8;/h4H,2-3,8H2,1H3,(H,9,10,11);1H
